US08420823B2
3-Iodo-N-(4-isopropoxyphenyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-iodobenzoic acid and 4-isopropoxyaniline as the starting materials.

reactant | 3-iodobenzoic acid | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | 4-isopropoxyaniline | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
product | 3-Iodo-N-(4-isopropoxyphenyl)benzamide | IC=1C=C(C(=O)NC2=CC=C(C=C2)OC(C)C)C=CC1 | C16H16INO2
